US04801706
1,2-Dibenzoylhexahydro-1H-1,2,5-triazepine
A mixture of 1,2-dibenzoyl-5-phenyl-1H-1,2,5-triazepine (25.0 g), dioxane (500 ml), N-hydrochloric acid (250 ml) and 10% Palladium on carbon (1.3 g) was hydrogenated in a Parr apparatus at 16 p.s.i. pressure for 191/2 hours. The catalyst was removed by filtration and washed with water. The filtrate and washings were evaporated to a solid hydrochloride salt which was dried under oil pump vacuum; wt. 22.4 g. The material was assayed by HPLC and shown to be 91% pure. Material prepared in this way was used directly in further syntheses, e.g., in example 8.

reactant | 1,2-dibenzoyl-5-phenyl-1H-1,2,5-triazepine | 25.0 g | C(C1=CC=CC=C1)(=O)N1N(C=CN(C=C1)C1=CC=CC=C1)C(C1=CC=CC=C1)=O | C24H19N3O2
catalyst | Palladium on carbon | 1.3 g | [Pd] | Pd
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 1,2-Dibenzoylhexahydro-1H-1,2,5-triazepine | C(C1=CC=CC=C1)(=O)N1N(CCNCC1)C(C1=CC=CC=C1)=O | C18H19N3O2
